US07157455B2
The same procedure as described in Example 20 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt Example 11 and isobutyric acid (Aldrich), to give 1-[4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-3-methyl-butan-1-one. HRMS, observed: 412.2350; Calcd for (M+H)+: 412.2343.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCNCC1
reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
product | 1-[4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-3-methyl-butan-1-one | NC1=NC(=NC=C1C(C1=C(C=CC=C1)OC)=O)NC1CCN(CC1)C(CC(C)C)=O | C22H29N5O3
